US08222424B2
1-(9-Benzenesulfonyl-1,3,4,9-tetrahydro-pyrido[3,4-b]indol-2-yl)-2,2-dimethyl-propan-1-one
To a well-agitated suspension of sodium hydroxide (0.81 g, 20.2 mmol) in methylene chloride (10 mL) is added 2,2-dimethyl-1-(1,3,4,9-tetrahydro-pyrido[3,4-b]indol-2-yl)-propan-1-one (2.3 g, 8.98 mmol). The reaction mixture is stirred for 15 min, and then benzenesulfonyl chloride (1.89 g, 10.7 mmol) is added. The solution is stirred at room temperature for 1 h. The reaction is diluted with methylene chloride, washed with water then a saturated sodium chloride solution, dried with sodium sulfate and concentrated in vacuo. Purification by silica gel chromatography (50% ethyl acetate-hexane) provides 2.0 g (56.2%) of the title compound as a white solid.

reactant | sodium hydroxide | 20.2 mmol, 0.81 g | [OH-].[Na+]
reactant | 2,2-dimethyl-1-(1,3,4,9-tetrahydro-pyrido[3,4-b]indol-2-yl)-propan-1-one | 8.98 mmol, 2.3 g | CC(C(=O)N1CC=2NC3=CC=CC=C3C2CC1)(C)C | C16H20N2O
reactant | benzenesulfonyl chloride | 10.7 mmol, 1.89 g | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | 1-(9-Benzenesulfonyl-1,3,4,9-tetrahydro-pyrido[3,4-b]indol-2-yl)-2,2-dimethyl-propan-1-one | 2.0 g, 56.2% | C1(=CC=CC=C1)S(=O)(=O)N1C2=C(C3=CC=CC=C13)CCN(C2)C(C(C)(C)C)=O | C22H24N2O3S
